US07582640B2
Synthesis of 2,5-dimethyl-4,6-dihydroxy-pyrimidine
A single-necked flask containing 40 ml of methanol, placed under a nitrogen atmosphere, is cooled down to 0° C. with an ice bath, 9.72 g of sodium methylate (i.e. a solution of concentration c=3 mol.l−1 ) is added to the reaction mixture then 5 g (53 mmoles) of acetamidine hydrochloride is added at 0° C. and in small quantities. Stirring is maintained at ambient temperature for about twenty minutes, then 8.3 ml of diethyl methylmalonate is added dropwise. Stirring is maintained for 3 hours. Then the methanol is condensed under reduced pressure (2 kPa). The crude product obtained is taken up in a minimum amount of water, followed by cooling down to 0° C. then acidifying with pure acetic acid to a pH of between 4 and 5. The white precipitate formed is filtered and rinsed with water, ethyl ether and pentane. Then the white product is dried over P2O5 under reduced pressure (0.2 kPa). 3.3 g (Yield=49%) of expected product is obtained.

reactant | methanol | 40 ml | CO | CH4O
reactant | acetamidine hydrochloride | 53 mmoles, 5 g | Cl.C(C)(=N)N
reactant | diethyl methylmalonate | 8.3 ml | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5-dimethyl-4,6-dihydroxy-pyrimidine | 3.3 g, Yield=49% | CC1=NC(=C(C(=N1)O)C)O | C6H8N2O2
